US04812164
using 2-chloro-1-(4-chloro-2-fluoro-5 -isopropoxyphenyl)-5-fluoro-4-trifluoromethyl-6(1H)-pyrimidinone and sodium methylate in methanol there is obtained 1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5 -fluoro-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone, m.p. 144°-146° C.;

reactant | 2-chloro-1-(4-chloro-2-fluoro-5 -isopropoxyphenyl)-5-fluoro-4-trifluoromethyl-6(1H)-pyrimidinone | ClC=1N(C(C(=C(N1)C(F)(F)F)F)=O)C1=C(C=C(C(=C1)OC(C)C)Cl)F | C14H9Cl2F5N2O2
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5 -fluoro-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1OC(C)C)N1C(=NC(=C(C1=O)F)C(F)(F)F)OC)F | C15H12ClF5N2O3
